US07741315B2
Step 1: tert-Butyl[(4-hydroxybutyl)amino]acetate
To a cold (0° C.) solution of 4-hydroxybutylamine (9.1 g, 101.8 mmol) in diethyl ether (100 mL), a solution of tert-butyl bromoacetate (7.4 g, 49.3 mmol) in diethyl ether (25 mL) was added dropwise over a period of 2 hours. The reaction mixture was allowed to warm up slowly to room temperature and stirred at the temperature overnight. The product mixture was washed successively with aqueous NaHCO3, water, and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. This intermediate was used in the following reaction without further purification.

reactant | 4-hydroxybutylamine | 101.8 mmol, 9.1 g | OCCCCN | C4H11NO
reactant | tert-butyl bromoacetate | 49.3 mmol, 7.4 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | tert-Butyl[(4-hydroxybutyl)amino]acetate | C(C)(C)(C)OC(CNCCCCO)=O | C10H21NO3
